US08859591B2
A solution of 1-azido-4-nitrobenzene (0.500 g, 3.05 mmol) and 3-bromoprop-1-yne (1.45 g, 12.2 mmol) in toluene (3 mL) was heated to 60° C. for 24 hours in a sealed tube. Additional 3-bromoprop-1-yne (1.45 g, 12.2 mmol) was added and the solution stirred at 60° C. overnight. The reaction mixture was concentrated to an orange solid. The crude residue was dissolved in ethanol (100 mL). 10 wt % Palladium on carbon (150 mg) was added and the mixture was pressurized to 50 psi hydrogen and stirred for 18 hours. The reaction mixture was filtered through celite and the filtrate was concentrated. The residue was slurried in ethyl acetate. The mixture was filtered, and the solid dried under vacuum to give 4-(4-methyl-1H-1,2,3-triazol-1-yl)aniline (300 mg). 1HNMR (400 MHz, CD3OD, δ): 8.37 (s, 1H), 8.03 (m, 2H), 7.58 (m, 2H), 2.44 (s, 3H).

reactant | 1-azido-4-nitrobenzene | 3.05 mmol, 0.500 g | N(=[N+]=[N-])C1=CC=C(C=C1)[N+](=O)[O-] | C6H4N4O2
reactant | 3-bromoprop-1-yne | 12.2 mmol, 1.45 g | BrCC#C | C3H3Br
reactant | 3-bromoprop-1-yne | 12.2 mmol, 1.45 g | BrCC#C | C3H3Br
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-methyl-1H-1,2,3-triazol-1-yl)aniline | 300 mg | CC=1N=NN(C1)C1=CC=C(N)C=C1 | C9H10N4
